US07329662B2
5-(3-Chloro-4-fluoro-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-chloro-4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (269 mg, 1.0 mmol), prepared from commercially available 3-chloro-4-fluoro-acetophenone according to general procedure A, and 3-amino-4-(3-pyridinyl)-pyrazole [CAS No. 40545-68-2; prepared from 3-cyanomethyl-pyridine as described in Bioorg. Med. Chem. Lett. 12 (2002) 3537-3541] (160 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (270 mg, 69%). MS (ISP) 393.1 [(M+H)+]; mp 190° C.

reactant | 1-(3-chloro-4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 269 mg | ClC=1C=C(C=CC1F)C(CC(C(F)(F)F)=O)=O | C10H5ClF4O2
reactant | 3-amino-4-(3-pyridinyl)-pyrazole | 1.0 mmol, 160 mg | NC1=NNC=C1C=1C=NC=CC1 | C8H8N4
product | 5-(3-Chloro-4-fluoro-phenyl)-3-pyridin-3-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 270 mg, 69% | ClC=1C=C(C=CC1F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C=2C=NC=CC2 | C18H9ClF4N4
